US07919519B2
5-(Cyclobutoxymethyl)benzofuran (step 1 in Scheme A-3-b)
A mixture of cyclobutanol (1.0 mL, 14.0 mmol) and sodium hydride (0.5 g, 14.0 mmol) in DMF (20 mL) was stirred at 0° C. for 30 minutes. 5-(Bromomethyl)benzofuran (2.9 g, 14.0 mmol) was the added and resultant reaction mixture was slowly warmed to room temperature and left stirring over night. Reaction mixture was diluted to 100 mL with water. The solution was extracted with Et2O (20 mL×3); the combined extracts were washed with 1N NaOH solution, water and brine, dried, and concentrated under reduced pressure to yield the desired product after purification on silica (4/1 hexane/ethyl acetate). 1H NMR (400 MHz, CDCl3) δ 7.58 (d, 2H), 7.42 (d, 1H), 7.27 (d, 1H), 6.78 (s, 1H), 4.54 (s, 2H) 4.03 (m, 1H), 2.21 (m, 2H), 1.94 (m, 2H), 1.76 (m, 1H), 1.52 (m, 1H).

reactant | cyclobutanol | 14.0 mmol, 1.0 mL | C1(CCC1)O | C4H8O
reactant | sodium hydride | 14.0 mmol, 0.5 g | [H-].[Na+]
reactant | 5-(Bromomethyl)benzofuran | 14.0 mmol, 2.9 g | BrCC=1C=CC2=C(C=CO2)C1 | C9H7BrO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(Cyclobutoxymethyl)benzofuran | C1(CCC1)OCC=1C=CC2=C(C=CO2)C1 | C13H14O2
